US08138197B2
tert-Butyl 4-bromo-3,5-diethoxybenzoate
To a mixture of 4-Bromo-3,5-diethoxybenzoic acid (2.8 g) in DMF (25 ml) was added CDI (1.8 g) at room temperature and the mixture was stirred at 40° C. for 2 h. To the reaction mixture, t-BuOH (1.85 ml) and DBU (1.752 ml) were added and further stirred at 40° C. for over night. After cooling to room temperature, the mixture was poured into ice-H2O and extracted with EtOAc. The organic layer was washed with H2O, brine and dried over sodium sulphate. After filtration and concentration, the residue was purified by silica gel column chromatography (hexane/EtOAc) to give the title compound as a colorless solid.

reactant | 4-Bromo-3,5-diethoxybenzoic acid | 2.8 g | BrC1=C(C=C(C(=O)O)C=C1OCC)OCC | C11H13BrO4
reactant | CDI | 1.8 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | t-BuOH | 1.85 ml | CC(C)(C)O | C4H10O
reactant | DBU | 1.752 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-bromo-3,5-diethoxybenzoate | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1OCC)OCC | C15H21BrO4
